* source PROIECTFINALSPER
R_R1         SENSOR VCC R_R1 7k TC=0,0 
.model        R_R1 RES R=1 DEV=0.1% TC1=0 TC2=0
V_V13         -VCC 0 -19V
D_D1          ANOD CATOD led_rosu2 
V_V12         VCC 0 19V
R_R10         N30086 N28683 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=0.1% TC1=0 TC2=0
Q_Q2         CATOD N28683 0 Q2N930
R_R11         ANOD VCC R_R11 850 TC=0,0 
.model        R_R11 RES R=1 DEV=0.1% TC1=0 TC2=0
R_Rs         0 SENSOR R_Rs {sensor} TC=0,0 
.model        R_Rs RES R=1 DEV=0.1% TC1=0 TC2=0
X_U17A         SENSOR N29276 VCC -VCC N29276 UA798
R_R2         N29276 N29441 R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R3         0 N29441 R_R3 3.4k TC=0,0 
.model        R_R3 RES R=1 DEV=0.1% TC1=0 TC2=0
X_U17B         N29441 N29687 VCC -VCC N29705 UA798
X_U18A         N34215 N29680 VCC -VCC N29680 LM324
R_R6         VCC N34215 R_R6 1k TC=0,0 
.model        R_R6 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R7         0 N34215 R_R7 1k TC=0,0 
.model        R_R7 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R5         N29680 N29687 R_R5 1k TC=0,0 
.model        R_R5 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R4         N29705 N29687 R_R4 3.4k TC=0,0 
.model        R_R4 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R8         N29705 N30063 R_R8 673 TC=0,0 
.model        R_R8 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R9         N30063 N30086 R_R9 1k TC=0,0 
.model        R_R9 RES R=1 DEV=0.1% TC1=0 TC2=0
V_V14         N30135 0 0.00597
X_U19A         N30063 N30135 VCC -VCC N30086 UA798
.PARAM  sensor=7k
